US06380221B1
To a solution of N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-hydroxy-5-chlorobenzamide (2.0 g, 3.6 mmol) in DMF (20 mL) were added cesium carbonate (8.0 g, 25 mmol) and 2-bromoethyl ethyl ether (0.71 g, 4.6 mmol). The suspension was heated at 60° C. for 16 hours. The mixture was cooled to ambient temperature and filtered, and the filtrate was acidified with trifluoroacetic acid. Purification by HPLC on a C18 Dynamax column acetonitrile in water gradient with 0.1% trifluoroacetic acid afforded N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-(2-ethoxyethoxy)-5-chlorobenzamide, trifuoroacetic acid salt as a white solid; NMR (DMSO-d6/TFA) 11.9 (s, 1), 9.4 (s, 1), 8.3 (d, 1), 8.2 (s, 1), 8.1 (d, 1), 7.9 (dd, 1), 7.4 (s, 1), 7.3 (s, 1), 4.4 (s, 2), 4.2 (t, 2), 3.7 (t, 2), 3.5 (q, 2), 3.5 (br, 8), 2.9 (s, 3), 1.0 (t, 3) ppm.

reactant | N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-hydroxy-5-chlorobenzamide | 3.6 mmol, 2.0 g | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)O)NC(=O)C=1SC=C(C1Cl)CN1CCN(CC1)C)=O | C23H22Cl3N5O3S
reactant | cesium carbonate | 25 mmol, 8.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl ethyl ether | 4.6 mmol, 0.71 g | C(C)OCCBr | C4H9BrO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(5-chloropyridin-2-yl)-2-[((4-((4-methylpiperazin-1-yl)methyl)-3-chlorothiophen-2-yl)carbonyl)amino]-3-(2-ethoxyethoxy)-5-chlorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C(=CC(=C1)Cl)OCCOCC)NC(=O)C=1SC=C(C1Cl)CN1CCN(CC1)C)=O | C27H30Cl3N5O4S
